US08071592B2
(g) cis-Phenylmethyl (3RS,5RS)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-5-[({[(1,1-dimethylethyl)oxy]carbonyl}amino)methyl]-1-piperidinecarboxylate
To cis-phenylmethyl (3RS,5RS)-3-(aminomethyl)-5-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-piperidinecarboxylate (450 mg; 1.2 mmol) in DCM (25 ml) was added Et3N (0.33 ml; 2.4 mmol), and di-tert-butyl dicarbonate (315 mg; 1.4 mmol). The reaction was allowed to stir at room temperature under N2 for 6 hours, and then was partitioned between EtOAc (150 ml) and water (50 ml), the layers were separated, and the organic layer was washed with brine and dried with Na2SO4. The solvents were removed and the residue was purified by chromatography on silica gel using a 5%-50% EtOAc/hexanes gradient to provide the desired compound (550 mg; 96%) as a colorless oil.

reactant | cis-phenylmethyl (3RS,5RS)-3-(aminomethyl)-5-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-piperidinecarboxylate | 1.2 mmol, 450 mg | NC[C@@H]1CN(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=CC=C1 | C20H34N2O3Si
reactant | Et3N | 2.4 mmol, 0.33 ml | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.4 mmol, 315 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | cis-Phenylmethyl (3RS,5RS)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-5-[({[(1,1-dimethylethyl)oxy]carbonyl}amino)methyl]-1-piperidinecarboxylate | 550 mg, 96% | CC(C)(C)[Si](O[C@@H]1CN(C[C@@H](C1)CNC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)(C)C | C25H42N2O5Si
